US07468375B2
Step 1: 3-Amino-3-cyclopropylpropanoic acid
A mixture of cyclopropanecarboxaldehyde (150.2 g, 2.1 mol), ammonium acetate (329.9 g, 4.3 mol), malonic acid (223 g, 2.1 mol), and ethanol (850 mL) was stirred at reflux for 19 h. The reaction was analyzed by LCMS and determined to be complete. The mixture was allowed to cool to room temperature. The heterogeneous mixture was further cooled with an ice-bath and stirred 3 h prior to collecting the solid precipitate by suction filtration. The cake was washed with cold ethanol (displacement wash: 250 mL) and the solids dried under vacuum to provide 146.5 g of the desired compound (53% yield) as a white solid. mp: 206-208° C.

reactant | cyclopropanecarboxaldehyde | 2.1 mol, 150.2 g | C1(CC1)C=O | C4H6O
reactant | ammonium acetate | 4.3 mol, 329.9 g | C(C)(=O)[O-].[NH4+]
reactant | malonic acid | 2.1 mol, 223 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | ethanol | 850 mL | C(C)O | C2H6O
product | 3-Amino-3-cyclopropylpropanoic acid | 146.5 g, 53% yield | NC(CC(=O)O)C1CC1 | C6H11NO2
